US06335360B1
1-[N-t-Butoxycarbonyl-2(S)-aminobutyryl]-5-ethynylindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide
To the solution of 1-[N-t-butoxycarbonyl-2(S)-aminobutyryl]-5-(trimethylsilyl)ethynylindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide (0.43 g, 0.81 mmol) in anhydrous methanol (7ml), potassium carbonate (0.02 g) was added under an atmosphere of nitrogen and stirred at room temperature for several hours. The solvent was evaporated in vacuo.

reactant | 1-[N-t-butoxycarbonyl-2(S)-aminobutyryl]-5-(trimethylsilyl)ethynylindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide | 0.81 mmol, 0.43 g | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)C#C[Si](C)(C)C)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C25H34F3N3O4Si
reactant | potassium carbonate | 0.02 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 7ml | CO | CH4O
product | 1-[N-t-Butoxycarbonyl-2(S)-aminobutyryl]-5-ethynylindoline-2(R/S)-carboxylic acid (2,2,2-trifluoroethyl)amide | FC(CNC(=O)C1N(C2=CC=C(C=C2C1)C#C)C([C@H](CC)NC(=O)OC(C)(C)C)=O)(F)F | C22H26F3N3O4
